US04614702
160 g of 3-bromopropyl phenyl ether and 63 g of thiourea were dissolved in 300 ml of ethanol and the solution was refluxed with heating for 3 hours. A methanol solution containing 194 g of potassium hydroxide was added to the reaction solution and the mixture was stirred at 50° C. for 2 hours. The mixture was poured into diluted hydrochloric acid and extracted with ethyl acetate followed by distillation under reduced pressure to obtain 76.5 g of 3-phenoxypropanethiol. A boiling point was 135° to 138° C. at 17 mm Hg.

reactant | 3-bromopropyl phenyl ether | 160 g | C1(=CC=CC=C1)OCCCBr | C9H11BrO
reactant | thiourea | 63 g | NC(=S)N | CH4N2S
reactant | potassium hydroxide | 194 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 300 ml | C(C)O | C2H6O
solvent | methanol | CO | CH4O
product | 3-phenoxypropanethiol | 76.5 g | O(C1=CC=CC=C1)CCCS | C9H12OS
